US09029393B2
Method B: Carbodiimide/HOBt Coupling
To a suspension of compound AE or AM′ (1.0 equiv.) in DMF, DIC (1.5 equiv.) or EDCI (1.5 equiv.), HOBt (1.5 equiv.) and the selected amine (1.5-5.0 equiv.) were added. The mixture was stirred at R.T. for 12-72 Hrs or heated through microwave irradiation for 5 min at 150° C.

reactant | DIC | 1.5 equiv. | CC(N=C=NC(C)C)C | C7H14N2
reactant | EDCI | 1.5 equiv. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.5 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | Carbodiimide HOBt | N=C=N.C=1C=CC2=C(C1)N=NN2O | InChI=1S/C6H5N3O.CH2N2/c10-9-6-4-2-1-3-5(6)7-8-9;2-1-3/h1-4,10H;2-3H
